US07268142B2
5-Bromoisoquinoline-8-sulfonic acid
To fuming sulfuric acid at 0° C. was added 5-bromoisoquinoline (20.0 g, 96 mmol), The resultant mixture was warmed to 200° C. for 4 h and was then cooled to rt and poured into 500 mL of ice water. The product was removed via filtration, washed with water and acetone, and dried to give 25 g (90%) of a white solid.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 5-bromoisoquinoline | 96 mmol, 20.0 g | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
product | 5-Bromoisoquinoline-8-sulfonic acid | 25 g, 90% | BrC1=C2C=CN=CC2=C(C=C1)S(=O)(=O)O | C9H6BrNO3S
